US07655666B2
A suspension of 5-acetyl-2-acetylamino-4-trifluoromethyl-benzoic acid methyl ester (1.0 g, 3.3 mmol) and 100 mg of palladium on carbon (10%) in THF (10 mL) was stirred at r.t. for 2 h under hydrogen (5 bars). The mixture was then filtered and concentrated in vacuo. The crude product was purified by column chromatography (silica gel 60, hexanes/EtOAc 2:1) to give 2-acetylamino-5-(1-hydroxy-ethyl)-4-trifluoromethyl-benzoic acid methyl ester (917 mg, 3.0 mmol, 91%) as a white solid, m.p. 120-122° C., ESI-MS: m/z 306 [M+H]+.

reactant | 5-acetyl-2-acetylamino-4-trifluoromethyl-benzoic acid methyl ester | 3.3 mmol, 1.0 g | COC(C1=C(C=C(C(=C1)C(C)=O)C(F)(F)F)NC(C)=O)=O | C13H12F3NO4
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-acetylamino-5-(1-hydroxy-ethyl)-4-trifluoromethyl-benzoic acid methyl ester | 3.0 mmol, 917 mg, 91% | COC(C1=C(C=C(C(=C1)C(C)O)C(F)(F)F)NC(C)=O)=O | C13H14F3NO4
